US06613929B2
The preparation was carried out as in Example 2 but using 120 g of ethylene carbonate, 45 g (0.77 mol) of potassium fluoride and 75.3 g (0.5 mol) of neopentyl chloroformate. After addition of the chloroformate, stirring of the reaction mixture was continued for 1 hour at 45° C. Evaporation under vacuum was carried out as in the preceding example. By distillation under reduced pressure, 61.7 g (92% yield) of neopentyl fluoroformate were recovered with a boiling point of 60° C. at 20 mm Hg.

reactant | ethylene carbonate | 120 g | C1(OCCO1)=O | C3H4O3
reactant | potassium fluoride | 0.77 mol, 45 g | [F-].[K+]
reactant | neopentyl chloroformate | 0.5 mol, 75.3 g | ClC(=O)OCC(C)(C)C | C6H11ClO2
reactant | chloroformate | ClC(=O)[O-]
product | neopentyl fluoroformate | 61.7 g, 92% yield | FC(=O)OCC(C)(C)C | C6H11FO2
